reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]([C:3](=[C:4]=[C:5]([H:12])[H:13])[C:6]([H:14])([H:15])[H:16])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],95.22270846647206
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4][C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],6.211645729353194
[C:1]([C@@:2]([C:3](=[O:4])[H:12])([N:7]=[C:5]=[O:6])[H:11])([H:8])([H:9])[H:10].[H:13][H:14]>>[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],77.8089315102276
[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1](=[N:2]/[C:3](=[N:4]/[H:11])[C:5]#[N:6])([H:7])[H:8].[H:9][H:10],60.855025282029494
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[C:5](=[C:6]=[C:7]([H:9])[H:14])([H:12])[H:13].[O:1]=[C:2]([N:3]=[C:4]([H:10])[H:11])[H:8],56.795929425058794
[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][H:11])([H:10])[H:12])([H:7])([H:8])[H:9].[C:4](=[O:5])=[C:6]([H:13])[H:14],86.05184647002348
[C:1](=[C:2]([H:11])[H:12])([H:8])[H:9].[C:3](=[O:4])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13].[H:10][H:14]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],42.05258373289847
[C:1]([O:2][C@:3]1([O:4][H:12])[C:5]([H:10])([H:11])[O:6]1)([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](=[O:4])[C:5]([O:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],23.314518093009717
[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3]([O-:4])=[C+:5][C:7]([H:16])([H:17])[H:18])[H:11])([H:8])([H:9])[H:10].[C:6]([H:12])([H:13])([H:14])[H:15],91.6903728844712
[C:1]([C:2]([N:3]([C:4]([C:5]#[N:6])([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([N:6]=[C:5]1[C:2]([H:10])([H:11])[N:3]([H:12])[C:4]1([H:13])[H:14])([H:7])([H:8])[H:9],111.474643398508
[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([C:4]([N:5]([H:13])[H:14])([H:11])[H:12])=[C:6]=[O:7])([H:9])[H:10])[H:8],100.46423716225901
[C-:1]([O+:2]=[C:3]([H:10])[H:11])([H:7])[H:9].[C:4](=[O:5])([C:6]([H:12])([H:13])[H:14])[H:8]>>[C:1]([O:2][C:3]([C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],7.084375214423105
[C:1]([O:2][C:3]([C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:4]([N+:6]#[C-:5])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],60.4582010696054
[C:1]([H:8])([H:9])([H:10])[H:14].[C:2]([C:3](=[O:4])[H:13])([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:11])[H:12]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],98.46856355668432
[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C:5]1([C:6]([H:16])([H:17])[H:18])[C:7]([H:19])([H:20])[H:21])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([H:11])[C@@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C:5]1=[C:6]([H:16])[H:18])([H:8])([H:9])[H:10].[C:7]([H:17])([H:19])([H:20])[H:21],117.651060869786
[C+:2](=[C:3]=[C-:4][H:8])[H:6].[O:1]([H:5])[H:7]>>[O:1]([C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5],3.4562300783477014
[C:1](#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6]>>[C+:1](=[C:2]=[C:3]([N:5]([C-:4]([H:8])[H:9])[H:10])[H:7])[H:6],48.317653017371995
[C:1]([C@@:2]([O:3][H:12])(/[C:4](=[C:5](/[O:6][H:14])[N:7]([H:15])[H:16])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],34.80480030494441
[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C@@:3]3([H:11])[O:4][C:5]([H:12])([H:13])[C@:6]1([H:14])[C@@:7]23[H:15]>>[C:1]1([H:8])([H:9])[C:2]([H:10])([H:12])[C@:7]2([H:15])[C:3]([H:11])=[O+:4][C-:5]([H:13])[C@:6]12[H:14],75.7562728453109
[C:1]([O:2][C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O+:2]=[C-:3][H:10])([H:7])([H:8])[H:9].[C:4]([C:5](=[O:6])[H:14])([H:11])([H:12])[H:13],78.50856147918701
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[H:10])[C:6]([H:14])([H:15])[H:16])([H:7])([H:8])[H:9],75.4377378743107
[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C:3]([H:10])=[C:4]([H:11])[C@@:6]1([H:13])[N:5]2[H:12]>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13],38.43965738629069
[C:1]([C@@:2]([C:3]([O+:5]=[C-:4][H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],49.9155329464205
